US06630495B1
a) (3-Chloro-5-trifluoromethyl-2-pyridyl)[(diphenylmethylene)amino]acetonitrile
To a suspension of 60% sodium hydride (4.0 g) in dry dimethylformamide at 0-2° C. under nitrogen was dropwise added a solution of N-(diphenylmethylene)aminoacetonitrile (11.1 g) in dry dimethylformamide (60 ml) and the mixture was stirred for 1 hour at 0° C., 2,3-Dichloro-5-trifluoromethyl pyridine (7 ml) in dry dimethylformamide (20 ml) was added dropwise over 10 minutes. The mixture was stirred at 0° C. for 30 minutes and then warmed to 22° C. over 3 hours. The mixture was re-cooled to less than 10° C., and ethanol (3 ml) was added dropwise and stirring continued for 15 minutes. The mixture was poured as a thin stream into a stirred mixture of diethyl ether (500 ml) and 20% saturated aqueous ammonium chloride solution. The phases were separated and the organic phase was washed with 20% saturated aqueous ammonium chloride solution (2×150 ml). The organic phase was dried over anhydrous magnesium sulphate, filtered and evaporated onto flash silica (50 g). Chromatography over silica eluting with 5-20% diethyl ether in 40/60° Bp petrol gave the title compound, m.p. 108-110° C.

reactant | sodium hydride | 4.0 g | [H-].[Na+]
reactant | N-(diphenylmethylene)aminoacetonitrile | 11.1 g | C1=CC=C(C=C1)C(=NCC#N)C2=CC=CC=C2 | C15H12N2
reactant | 2,3-Dichloro-5-trifluoromethyl pyridine | 7 ml | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | (3-Chloro-5-trifluoromethyl-2-pyridyl)[(diphenylmethylene)amino]acetonitrile | ClC=1C(=NC=C(C1)C(F)(F)F)C(C#N)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C21H13ClF3N3
